US06211199B1
49.1.2 Synthesis of 3-cyano-3-(pyrid-3-yl)pentanedioic Acid Diethyl Ester
Combine 3-pyridineacetonitrile (25 g, 212 mmol) and tetrahydrofuran (200 mL). Cool to about −70° C . using a dry-ice/acetone bath. Add dropwise, a solution of sodium bis(trimethylsilyl)amide (435 mL, 1 M in tetrahydrofuran, 435 mmol) while maintaining the reaction temperature below about −68° C. When the addition is complete, warm the reaction mixture to ambient temperature and allow to stir for 1 hour. Transfer the above solution via cannula into a cooled (−5° C.) solution of ethyl bromoacetate (84.5 mL, 762 mmol) in tetrahydrofuran (500 mL) at such a rate that the temperature of the reaction mixture does not rise above about 15° C. Allow to stir at ambient temperature. After 18 hours, quench with saturated aqueous solution of ammonium chloride and evaporate in vacuo to remove most of the tetrahydrofuran. Extract the evaporated reaction mixture twice with diethyl ether. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give the title compound.

reactant | 3-pyridineacetonitrile | 212 mmol, 25 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | sodium bis(trimethylsilyl)amide | 435 mmol, 1 M, 435 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl bromoacetate | 762 mmol, 84.5 mL | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-cyano-3-(pyrid-3-yl)pentanedioic Acid Diethyl Ester | C(C)OC(CC(CC(=O)OCC)(C=1C=NC=CC1)C#N)=O | C15H18N2O4
